US08017599B2
[(tert-Butoxycarbonyl)amino]-1-methylimidazole-2-carboxylic acid (Im-4)
To Im-3 (0.38 g) in DMF (8 mL) and Hunig's base (2 mL) was added ditert-butyl dicarbonate (0.7 ml) and the mixture stirred at 60° C. for 3 hr. It was then cooled to room temperature and brine (6 mL) and ethyl ether (6 mL) were added. The ether layer was extracted with 10% citric acid, brine, saturated sodium bicarbonate, and brine (10 mL each). The ether layer was then dried over sodium sulfate and evaporated under vacuum. NaOH (1M, 5 mL) in methanol was then added and solution stirred at 60° C. for 1 hr. The mixture was then cooled to 0° C. and neutralised with 1M HCl to pH 2 at which a white gel was formed. The gel was collected by gravity filtration and washed with water pH=6 before it was freeze dried to yield the product as a white powder. Yield (0.41 g, 76%). 1H NMR (DMSO): δ 9.45 (bs, 1H, NH), 7.21 (bs, 1H), 3.86 (s, 3H), 3.67 (bs, 1H, OH), 1.4 (s, 9H).

reactant | Ethyl 4-amino-1-methylimidazole-2-carboxylate | 0.38 g | NC=1N=C(N(C1)C)C(=O)OCC | C7H11N3O2
reactant | ditert-butyl dicarbonate | 0.7 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl ether | 6 mL | C(C)OCC | C4H10O
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | Hunig's base | 2 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | brine | 6 mL | [Cl-].[Na+].O
product | [(tert-Butoxycarbonyl)amino]-1-methylimidazole-2-carboxylic acid | C(C)(C)(C)OC(=O)NC=1N=C(N(C1)C)C(=O)O | C10H15N3O4
